US07799805B2
tert-Butyl-(2-chloro-5-vinyl-benzyloxy)-dimethyl-silane
Pd(PPh3)4 (173 mg, 0.149 mmol) was added to a sol. of (5-bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane (1.00 g, 2.98 mmol) in dimethoxyethane (30 mL). The mixture was stirred at rt for 20 min, and K2CO3 (411 mg, 2.98 mmol), water (10 mL) and 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (0.53 mL, 2.98 mmol) were added. The mixture was heated rapidly to reflux, and stirred under reflux for 2 h. The mixture was allowed to cool to rt, and was diluted with Et2O (100 mL). The mixture was washed with water, and the aq. layer was extracted back with Et2O (3×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 5:95) yielded the title compound (822 mg, 98%). LC-MS: tR=1.22 min.

reactant | (5-bromo-2-chloro-benzyloxy)-tert-butyl-dimethyl-silane | 2.98 mmol, 1.00 g | BrC=1C=CC(=C(CO[Si](C)(C)C(C)(C)C)C1)Cl | C13H20BrClOSi
reactant | K2CO3 | 2.98 mmol, 411 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 2.98 mmol, 0.53 mL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | Et2O | 100 mL | CCOCC | C4H10O
catalyst | Pd(PPh3)4 | 0.149 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl-(2-chloro-5-vinyl-benzyloxy)-dimethyl-silane | 822 mg, 98% | C(C)(C)(C)[Si](C)(C)OCC1=C(C=CC(=C1)C=C)Cl | C15H23ClOSi
